* File: BUX3.pex.netlist.pex
* Created: Mon Jun  5 11:29:21 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_BUX3%D_VDD 1 4 8 13 14 32 33 34
c25 34 0 0.19619f
c26 33 0 0.187239f
c27 32 0 0.21653f
c28 28 0 0.0701213f
c29 23 0 0.0701213f
c30 14 0 0.271502f
c31 8 0 0.271502f
c32 4 0 0.342461f
c33 1 0 0.456882f
r34 27 34 0.278611
r35 27 28 0.0120155
r36 24 33 0.278611
r37 22 32 0.278611
r38 22 23 0.0120155
r39 18 28 0.0329425
r40 14 28 0.0329425
r41 9 23 0.0329425
r42 8 13 0.18275
r43 4 23 0.0329425
r44 1 24 0.0120155
r45 1 8 0.0329425
r46 1 15 0.0329425
r47 1 18 0.06375
r48 1 14 0.13175
r49 1 15 0.11475
r50 1 13 0.034
r51 1 9 0.02975
r52 1 4 0.16575
.ends

.subckt PM_BUX3%N$2 2 5 9 13 17 21 25 29 33 37 41 43 47 48 49 50 52 54 58 61 64
+ 67 69 74 76 87 91
c80 91 0 0.208022f
c81 87 0 0.19221f
c82 76 0 0.103793f
c83 74 0 0.0227085f
c84 69 0 0.243789f
c85 67 0 0.13044f
c86 64 0 0.135837f
c87 61 0 0.137765f
c88 58 0 0.141415f
c89 54 0 0.0234808f
c90 52 0 0.0732224f
c91 50 0 0.07506f
c92 49 0 0.0959525f
c93 48 0 0.079041f
c94 47 0 0.0884282f
c95 44 0 0.0845921f
c96 43 0 0.0994576f
c97 41 0 0.630082f
c98 37 0 0.582013f
c99 33 0 0.639229f
c100 29 0 0.587957f
c101 25 0 0.639229f
c102 21 0 0.587957f
c103 17 0 0.639229f
c104 13 0 0.587957f
c105 9 0 0.667555f
c106 5 0 0.611998f
r107 76 91 0.0484745
r108 70 87 15.2778
r109 69 70 7
r110 67 84 15.2843
r111 67 83 15.2843
r112 66 69 0.141667
r113 66 67 7
r114 63 66 0.165278
r115 63 64 7
r116 60 63 0.179444
r117 60 61 7
r118 58 79 15.2843
r119 58 78 15.2843
r120 57 60 0.184167
r121 57 58 7
r122 55 74 0.00642418
r123 55 57 0.0425
r124 53 74 0.0396541
r125 53 54 0.06375
r126 52 74 0.0396541
r127 51 52 0.17
r128 49 54 0.0474919
r129 49 50 0.1275
r130 47 51 0.0474919
r131 47 48 0.132812
r132 45 50 0.0474919
r133 45 91 0.281563
r134 44 48 0.0474919
r135 43 44 0.111562
r136 39 87 6.3741
r137 39 41 175
r138 35 87 6.3741
r139 35 37 163.542
r140 33 84 175
r141 29 83 163.542
r142 23 64 15.2843
r143 23 25 175
r144 19 64 15.2843
r145 19 21 163.542
r146 15 61 15.2843
r147 15 17 175
r148 11 61 15.2843
r149 11 13 163.542
r150 9 79 175
r151 5 78 163.542
r152 2 43 0.0427421
.ends

.subckt PM_BUX3%D_GND 1 5 6 7 21 23 25 31
c25 31 0 0.27211f
c26 26 0 0.0701213f
c27 25 0 0.27211f
c28 23 0 0.0701213f
c29 21 0 0.342209f
c30 7 0 0.153179f
c31 6 0 0.143023f
c32 5 0 0.172288f
c33 1 0 0.456974f
r34 25 26 0.0329425
r35 24 26 0.0329425
r36 21 23 0.0329425
r37 16 26 0.0120155
r38 8 23 0.0120155
r39 7 16 0.174722
r40 6 12 0.174722
r41 5 8 0.174722
r42 1 12 0.0120155
r43 1 31 0.0329425
r44 1 36 0.0329425
r45 1 24 0.06375
r46 1 25 0.13175
r47 1 36 0.11475
r48 1 31 0.21675
r49 1 23 0.02975
r50 1 21 0.16575
.ends

.subckt PM_BUX3%OUT 4 5 6 11 12 13 14 19 21 30 32 34 37 38 45 46 47
c55 47 0 0.238052f
c56 46 0 0.139463f
c57 45 0 0.141451f
c58 41 0 0.0636689f
c59 38 0 0.109516f
c60 37 0 0.0841799f
c61 35 0 0.0636689f
c62 34 0 0.0344261f
c63 32 0 0.0363338f
c64 30 0 0.152951f
c65 21 0 0.0872625f
c66 19 0 0.0901664f
c67 14 0 0.0503223f
c68 13 0 0.0827295f
c69 12 0 0.0494663f
c70 11 0 0.0858936f
c71 6 0 0.154354f
c72 5 0 0.0941144f
c73 4 0 0.0967908f
r74 40 47 0.122778
r75 40 41 0.0359928
r76 37 39 0.0477853
r77 37 38 0.0307853
r78 33 46 0.122778
r79 33 34 0.00935391
r80 31 45 0.122778
r81 30 41 0.0359928
r82 30 39 0.179444
r83 27 35 0.0359928
r84 27 38 0.1275
r85 23 35 0.0359928
r86 22 34 0.0359928
r87 21 41 0.00935391
r88 21 22 0.273889
r89 20 32 0.0359928
r90 19 35 0.00935391
r91 19 20 0.273889
r92 15 32 0.00935391
r93 14 31 0.0474919
r94 13 34 0.0359928
r95 13 14 0.273889
r96 11 32 0.0359928
r97 11 12 0.273889
r98 7 12 0.0474919
r99 6 23 0.118056
r100 5 15 0.118056
r101 4 7 0.118056
.ends

.subckt PM_BUX3%IN 3 7 10 17
c23 17 0 0.212348f
c24 10 0 0.0421373f
c25 7 0 0.737f
c26 3 0 0.528745f
r27 13 17 15.2778
r28 10 13 7
r29 5 17 6.3741
r30 5 7 206.25
r31 1 17 6.3741
r32 1 3 139.583
.ends

