* File: BUX4.pex.netlist.pex
* Created: Mon Jun  5 11:29:55 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_BUX4%D_VDD 1 4 8 13 17 35 36 37 38
c29 38 0 0.303847f
c30 37 0 0.241909f
c31 36 0 0.191042f
c32 35 0 0.20851f
c33 28 0 0.208645f
c34 27 0 0.0701213f
c35 22 0 0.0701213f
c36 17 0 0.280659f
c37 13 0 0.283408f
c38 8 0 0.271502f
c39 4 0 0.337575f
c40 1 0 0.0701213f
r41 28 38 0.226667
r42 26 37 0.302222
r43 26 27 0.0120155
r44 23 36 0.226667
r45 21 35 0.226667
r46 21 22 0.0120155
r47 18 27 0.0329425
r48 13 27 0.0329425
r49 9 22 0.0329425
r50 4 22 0.0329425
r51 1 28 0.0245326
r52 1 17 0.0231307
r53 1 23 0.0120155
r54 1 8 0.0329425
r55 1 14 0.0329425
r56 1 17 0.19975
r57 1 18 0.05525
r58 1 13 0.14025
r59 1 14 0.11475
r60 1 8 0.21675
r61 1 9 0.02975
r62 1 4 0.16575
.ends

.subckt PM_BUX4%N$2 2 5 9 13 17 21 25 29 31 33 36 40 42 46 50 56 59 64 65 66 67
+ 69 73 76 79 84 85 91 95 103
c91 103 0 0.230158f
c92 95 0 0.110638f
c93 91 0 0.0778832f
c94 85 0 0.712726f
c95 84 0 0.301048f
c96 79 0 0.137765f
c97 76 0 0.137361f
c98 73 0 0.141305f
c99 69 0 0.0455419f
c100 67 0 0.0453124f
c101 66 0 0.0644954f
c102 65 0 0.0492194f
c103 64 0 0.0365459f
c104 61 0 0.138128f
c105 59 0 0.11707f
c106 56 0 0.25319f
c107 50 0 0.349303f
c108 46 0 0.260944f
c109 42 0 0.15958f
c110 40 0 0.356975f
c111 36 0 0.264607f
c112 31 0 0.730829f
c113 29 0 0.52981f
c114 25 0 0.718585f
c115 21 0 0.521803f
c116 17 0 0.711579f
c117 13 0 0.521803f
c118 9 0 0.744118f
c119 5 0 0.544258f
c120 2 0 0.104271f
r121 95 103 0.0566888
r122 84 85 7
r123 81 84 0.240833
r124 81 82 7
r125 78 81 0.184167
r126 78 79 7
r127 75 78 0.179444
r128 75 76 7
r129 72 75 0.179444
r130 72 73 7
r131 70 91 0.177083
r132 70 72 0.0755556
r133 68 70 0.06375
r134 68 69 0.14875
r135 66 69 0.0474919
r136 66 67 0.155833
r137 64 91 0.00499195
r138 64 65 0.17
r139 62 67 0.0474919
r140 62 103 0.453333
r141 61 65 0.0474919
r142 61 90 0.262083
r143 58 85 76.3889
r144 58 59 8.75871
r145 55 85 54.1667
r146 55 56 50
r147 52 55 29.1667
r148 48 50 78.125
r149 44 56 1.46822
r150 44 46 54.1667
r151 43 59 4.42031
r152 42 48 13.9682
r153 42 43 27.0833
r154 38 59 8.75871
r155 38 40 78.125
r156 34 52 1.46822
r157 34 36 54.1667
r158 31 82 29.0074
r159 31 33 122.917
r160 27 82 15.502
r161 27 29 141.667
r162 23 79 15.2843
r163 23 25 198.958
r164 19 79 15.2843
r165 19 21 141.667
r166 15 76 15.2843
r167 15 17 198.958
r168 11 76 15.2843
r169 11 13 141.667
r170 7 73 15.2843
r171 7 9 198.958
r172 3 73 15.2843
r173 3 5 141.667
r174 2 90 0.0519666
.ends

.subckt PM_BUX4%D_GND 1 6 7 8 9 27 30 36 40 44
c35 44 0 0.266632f
c36 36 0 0.270349f
c37 31 0 0.0701213f
c38 30 0 0.269674f
c39 28 0 0.0701213f
c40 27 0 0.343369f
c41 22 0 0.232455f
c42 9 0 0.219007f
c43 8 0 0.140918f
c44 7 0 0.140918f
c45 6 0 0.181406f
c46 1 0 0.0701213f
r47 36 40 0.12325
r48 30 31 0.0329425
r49 29 31 0.0329425
r50 27 28 0.0329425
r51 26 28 0.0329425
r52 18 31 0.0120155
r53 10 28 0.0120155
r54 9 22 0.174722
r55 8 18 0.174722
r56 7 14 0.174722
r57 6 10 0.174722
r58 1 22 0.0244588
r59 1 44 0.0232045
r60 1 14 0.0120155
r61 1 36 0.0329425
r62 1 41 0.0329425
r63 1 44 0.18275
r64 1 29 0.06375
r65 1 30 0.13175
r66 1 41 0.11475
r67 1 40 0.0935
r68 1 26 0.02975
r69 1 27 0.16575
.ends

.subckt PM_BUX4%OUT 4 5 6 11 12 13 14 19 21 30 34 38 43 44 45
c72 45 0 0.151062f
c73 44 0 0.223362f
c74 43 0 0.194576f
c75 38 0 0.170406f
c76 34 0 0.113641f
c77 32 0 0.0340883f
c78 30 0 0.289665f
c79 21 0 0.0990644f
c80 19 0 0.0872057f
c81 14 0 0.043624f
c82 13 0 0.084957f
c83 12 0 0.0517996f
c84 11 0 0.0785756f
c85 6 0 0.0860921f
c86 5 0 0.0877748f
c87 4 0 0.0901571f
r88 44 49 0.00935391
r89 44 49 0.198333
r90 37 45 0.269167
r91 36 38 0.141667
r92 36 37 0.00499195
r93 33 34 0.160556
r94 31 43 0.269167
r95 28 38 0.00499195
r96 28 30 0.132222
r97 27 34 0.00499195
r98 27 30 0.179444
r99 23 33 0.00499195
r100 22 44 0.0359928
r101 21 36 0.0425
r102 21 22 0.283333
r103 20 32 0.0359928
r104 19 33 0.0425
r105 19 20 0.273889
r106 15 32 0.00935391
r107 14 31 0.0474919
r108 13 44 0.0359928
r109 13 14 0.283333
r110 11 32 0.0359928
r111 11 12 0.273889
r112 7 12 0.0474919
r113 6 23 0.103889
r114 5 15 0.103889
r115 4 7 0.103889
.ends

.subckt PM_BUX4%IN 3 7 10 17
c21 17 0 0.212383f
c22 10 0 0.0395129f
c23 7 0 0.773722f
c24 3 0 0.51753f
r25 13 17 15.2778
r26 10 13 7
r27 5 17 6.3741
r28 5 7 218.75
r29 1 17 6.3741
r30 1 3 139.583
.ends

