* File: BUX6.pex.netlist.pex
* Created: Mon Jun  5 11:30:28 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_BUX6%D_VDD 1 4 8 12 15 18 39 40 41 42
c33 42 0 0.27822f
c34 41 0 0.264705f
c35 40 0 0.265102f
c36 39 0 0.193693f
c37 31 0 0.0701213f
c38 29 0 0.0701213f
c39 27 0 0.0701213f
c40 18 0 0.271502f
c41 12 0 0.271502f
c42 8 0 0.283408f
c43 4 0 0.39444f
c44 1 0 0.510455f
r45 32 42 0.321111
r46 30 41 0.321111
r47 30 31 0.0120155
r48 28 40 0.321111
r49 28 29 0.0120155
r50 26 39 0.207778
r51 26 27 0.0120155
r52 19 31 0.0329425
r53 13 29 0.0329425
r54 13 15 0.0255
r55 12 31 0.0329425
r56 9 27 0.0329425
r57 8 29 0.0329425
r58 4 27 0.0329425
r59 1 32 0.0120155
r60 1 18 0.0329425
r61 1 22 0.0329425
r62 1 22 0.102
r63 1 18 0.2295
r64 1 19 0.017
r65 1 12 0.1785
r66 1 15 0.0425
r67 1 8 0.1275
r68 1 9 0.1275
r69 1 4 0.204
.ends

.subckt PM_BUX6%N$2 2 5 9 13 17 21 25 29 33 37 41 45 49 53 57 63 64 65 66 68 70
+ 74 77 80 83 86 89 91 92 98 100 114
c100 114 0 0.178155f
c101 100 0 0.112203f
c102 98 0 0.0224401f
c103 92 0 0.141169f
c104 91 0 0.258226f
c105 89 0 0.137361f
c106 86 0 0.137361f
c107 83 0 0.137361f
c108 80 0 0.137361f
c109 77 0 0.136909f
c110 74 0 0.141456f
c111 70 0 0.0734497f
c112 68 0 0.0392099f
c113 66 0 0.0495102f
c114 65 0 0.0995055f
c115 64 0 0.0508978f
c116 63 0 0.100354f
c117 60 0 0.104312f
c118 57 0 0.755813f
c119 53 0 0.51798f
c120 49 0 0.642655f
c121 45 0 0.458159f
c122 41 0 0.634819f
c123 37 0 0.453301f
c124 33 0 0.634819f
c125 29 0 0.453301f
c126 25 0 0.634819f
c127 21 0 0.453301f
c128 17 0 0.642655f
c129 13 0 0.458159f
c130 9 0 0.802165f
c131 5 0 0.547145f
c132 2 0 0.101791f
r133 100 114 0.0566888
r134 92 111 15.2843
r135 92 110 15.2843
r136 91 92 7
r137 88 91 0.179444
r138 88 89 7
r139 85 88 0.179444
r140 85 86 7
r141 82 85 0.179444
r142 82 83 7
r143 79 82 0.179444
r144 79 80 7
r145 76 79 0.179444
r146 76 77 7
r147 74 103 15.2843
r148 74 102 15.2843
r149 73 76 0.174722
r150 73 74 7
r151 71 98 0.0004726
r152 71 73 0.0566667
r153 69 98 0.0497087
r154 69 70 0.262083
r155 68 98 0.0497087
r156 67 68 0.141667
r157 65 70 0.0474919
r158 65 66 0.205417
r159 63 67 0.0474919
r160 63 64 0.219583
r161 61 66 0.0474919
r162 61 114 0.347083
r163 60 64 0.0474919
r164 60 97 0.198333
r165 57 111 216.667
r166 53 110 141.667
r167 47 89 15.2843
r168 47 49 166.667
r169 43 89 15.2843
r170 43 45 116.667
r171 39 86 15.2843
r172 39 41 166.667
r173 35 86 15.2843
r174 35 37 116.667
r175 31 83 15.2843
r176 31 33 166.667
r177 27 83 15.2843
r178 27 29 116.667
r179 23 80 15.2843
r180 23 25 166.667
r181 19 80 15.2843
r182 19 21 116.667
r183 15 77 15.2843
r184 15 17 166.667
r185 11 77 15.2843
r186 11 13 116.667
r187 9 103 216.667
r188 5 102 141.667
r189 2 97 0.0519666
.ends

.subckt PM_BUX6%D_GND 1 6 7 8 9 27 30 33 44
c33 44 0 0.271502f
c34 34 0 0.0701213f
c35 33 0 0.271502f
c36 31 0 0.0701213f
c37 30 0 0.283408f
c38 28 0 0.0701213f
c39 27 0 0.392035f
c40 9 0 0.172851f
c41 8 0 0.163658f
c42 7 0 0.164056f
c43 6 0 0.152864f
c44 1 0 0.507629f
r45 33 34 0.0329425
r46 32 34 0.0329425
r47 30 31 0.0329425
r48 29 31 0.0329425
r49 27 28 0.0329425
r50 26 28 0.0329425
r51 18 34 0.0120155
r52 14 31 0.0120155
r53 10 28 0.0120155
r54 9 22 0.207778
r55 8 18 0.207778
r56 7 14 0.207778
r57 6 10 0.151111
r58 1 22 0.0120155
r59 1 44 0.0329425
r60 1 47 0.0329425
r61 1 47 0.102
r62 1 44 0.2295
r63 1 32 0.017
r64 1 33 0.1955
r65 1 29 0.051
r66 1 30 0.1275
r67 1 26 0.1275
r68 1 27 0.204
.ends

.subckt PM_BUX6%OUT 5 6 7 8 13 14 15 16 21 23 29 31 40 55 56 57 58
c76 58 0 0.368611f
c77 57 0 0.206829f
c78 56 0 0.206743f
c79 55 0 0.221643f
c80 50 0 0.108686f
c81 48 0 0.108686f
c82 47 0 0.0266915f
c83 45 0 0.0267039f
c84 44 0 0.0266915f
c85 42 0 0.0267039f
c86 40 0 0.169214f
c87 31 0 0.0741502f
c88 29 0 0.0741502f
c89 23 0 0.0639428f
c90 21 0 0.0639428f
c91 16 0 0.0382782f
c92 15 0 0.0639428f
c93 14 0 0.0382907f
c94 13 0 0.0639428f
c95 8 0 0.203448f
c96 7 0 0.105798f
c97 6 0 0.105711f
c98 5 0 0.114411f
r99 49 58 0.349444
r100 49 50 0.0359928
r101 46 57 0.236111
r102 46 47 0.00935391
r103 43 56 0.236111
r104 43 44 0.00935391
r105 41 55 0.236111
r106 38 50 0.0359928
r107 38 40 0.0708333
r108 37 48 0.0359928
r109 37 40 0.1275
r110 33 48 0.0359928
r111 32 47 0.0359928
r112 31 50 0.00935391
r113 31 32 0.283333
r114 30 45 0.0359928
r115 29 48 0.00935391
r116 29 30 0.283333
r117 25 45 0.00935391
r118 24 44 0.0359928
r119 23 47 0.0359928
r120 23 24 0.273889
r121 22 42 0.0359928
r122 21 45 0.0359928
r123 21 22 0.273889
r124 17 42 0.00935391
r125 16 41 0.0474919
r126 15 44 0.0359928
r127 15 16 0.273889
r128 13 42 0.0359928
r129 13 14 0.273889
r130 9 14 0.0474919
r131 8 33 0.179444
r132 7 25 0.122778
r133 6 17 0.122778
r134 5 9 0.122778
.ends

.subckt PM_BUX6%IN 3 7 10 13 14
c22 14 0 0.150421f
c23 13 0 0.117337f
c24 7 0 0.762952f
c25 3 0 0.570334f
r26 14 18 15.2843
r27 14 17 15.2843
r28 13 14 7
r29 10 13 0.0897222
r30 7 18 210.417
r31 3 17 152.083
.ends

