* File: BUX8.pex.netlist.pex
* Created: Mon Jun  5 11:31:01 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_BUX8%D_VDD 1 4 8 12 16 20 30 46 47 48 49 50
c39 50 0 0.336372f
c40 49 0 0.290113f
c41 48 0 0.289716f
c42 47 0 0.290113f
c43 46 0 0.213514f
c44 37 0 0.0701213f
c45 35 0 0.0701213f
c46 30 0 0.0701213f
c47 20 0 0.283408f
c48 16 0 0.271502f
c49 12 0 0.271502f
c50 8 0 0.283408f
c51 4 0 0.337575f
c52 1 0 0.397699f
r53 38 50 0.288056
r54 36 49 0.184167
r55 36 37 0.0120155
r56 34 48 0.184167
r57 34 35 0.0120155
r58 31 47 0.184167
r59 28 46 0.288056
r60 28 30 0.0120155
r61 21 37 0.0329425
r62 17 35 0.0329425
r63 16 37 0.0329425
r64 12 35 0.0329425
r65 9 30 0.0329425
r66 4 30 0.0329425
r67 1 38 0.0120155
r68 1 20 0.0329425
r69 1 24 0.0329425
r70 1 31 0.0120155
r71 1 8 0.0329425
r72 1 13 0.0329425
r73 1 24 0.08075
r74 1 20 0.25075
r75 1 21 0.00425
r76 1 16 0.19125
r77 1 17 0.05525
r78 1 12 0.14025
r79 1 13 0.10625
r80 1 8 0.22525
r81 1 9 0.02975
r82 1 4 0.16575
.ends

.subckt PM_BUX8%N$2 2 5 9 11 12 15 19 21 25 29 31 35 39 41 45 49 51 55 59 61 65
+ 69 71 75 79 81 82 83 84 85 86 87 92 93 94 95 99 105 107 110 116
c120 116 0 0.229877f
c121 110 0 0.110638f
c122 107 0 0.0321538f
c123 105 0 0.0266705f
c124 99 0 0.0372336f
c125 95 0 0.0477411f
c126 94 0 0.0885982f
c127 93 0 0.0544507f
c128 92 0 0.0907414f
c129 89 0 0.114848f
c130 87 0 0.0916842f
c131 86 0 0.0557806f
c132 85 0 0.0478119f
c133 84 0 0.0478119f
c134 83 0 0.0478119f
c135 82 0 0.0478119f
c136 81 0 0.0478119f
c137 79 0 0.501536f
c138 75 0 0.765124f
c139 71 0 0.172301f
c140 69 0 0.489533f
c141 65 0 0.598177f
c142 61 0 0.180116f
c143 59 0 0.590244f
c144 55 0 0.467038f
c145 51 0 0.162613f
c146 49 0 0.590244f
c147 45 0 0.463061f
c148 41 0 0.173887f
c149 39 0 0.590244f
c150 35 0 0.463061f
c151 31 0 0.162613f
c152 29 0 0.590244f
c153 25 0 0.463061f
c154 21 0 0.173887f
c155 19 0 0.598177f
c156 15 0 0.468832f
c157 12 0 0.186173f
c158 11 0 0.182318f
c159 9 0 0.752332f
c160 5 0 0.556745f
c161 2 0 0.101781f
r162 110 116 0.0566888
r163 106 113 18.0556
r164 105 108 0.0517479
r165 105 107 0.0517479
r166 105 106 7
r167 99 108 0.162917
r168 96 107 0.141667
r169 94 99 0.0474919
r170 94 95 0.19125
r171 92 96 0.0474919
r172 92 93 0.205417
r173 90 95 0.0474919
r174 90 116 0.453333
r175 89 93 0.0474919
r176 89 103 0.219583
r177 77 87 14.6202
r178 77 79 120.833
r179 73 87 14.6202
r180 73 75 197.917
r181 72 86 3.91908
r182 71 87 0.139
r183 71 72 36.1111
r184 67 86 8.95055
r185 67 69 119.792
r186 63 86 8.95055
r187 63 65 147.917
r188 62 85 8.33333
r189 61 86 3.91908
r190 61 62 36.1111
r191 57 85 18.75
r192 57 59 147.917
r193 53 85 18.75
r194 53 55 112.5
r195 52 84 8.33333
r196 51 85 8.33333
r197 51 52 36.1111
r198 47 84 18.75
r199 47 49 147.917
r200 43 84 18.75
r201 43 45 112.5
r202 42 83 8.33333
r203 41 84 8.33333
r204 41 42 36.1111
r205 37 83 18.75
r206 37 39 147.917
r207 33 83 18.75
r208 33 35 112.5
r209 32 82 8.33333
r210 31 83 8.33333
r211 31 32 36.1111
r212 27 82 18.75
r213 27 29 147.917
r214 23 82 18.75
r215 23 25 112.5
r216 22 81 8.33333
r217 21 82 8.33333
r218 21 22 36.1111
r219 17 81 18.75
r220 17 19 147.917
r221 13 81 18.75
r222 13 15 112.5
r223 12 113 8.33333
r224 11 81 8.33333
r225 11 12 38.8889
r226 7 113 6.3741
r227 7 9 197.917
r228 3 113 6.3741
r229 3 5 142.708
r230 2 103 0.0519666
.ends

.subckt PM_BUX8%D_GND 1 7 8 9 10 11 33 36 39 42 48 52
c43 48 0 0.283408f
c44 43 0 0.0701213f
c45 42 0 0.310368f
c46 40 0 0.0701213f
c47 39 0 0.271502f
c48 37 0 0.0701213f
c49 36 0 0.271502f
c50 34 0 0.0701213f
c51 33 0 0.335876f
c52 11 0 0.283508f
c53 10 0 0.213461f
c54 9 0 0.194588f
c55 8 0 0.194985f
c56 7 0 0.150625f
c57 1 0 0.303767f
r58 48 52 0.1445
r59 42 43 0.0329425
r60 41 43 0.0329425
r61 39 40 0.0329425
r62 38 40 0.0329425
r63 36 37 0.0329425
r64 35 37 0.0329425
r65 33 34 0.0329425
r66 32 34 0.0329425
r67 28 43 0.0120155
r68 24 40 0.0120155
r69 20 37 0.0120155
r70 12 34 0.0120155
r71 11 28 0.2125
r72 10 24 0.184167
r73 9 20 0.184167
r74 8 16 0.184167
r75 7 12 0.165278
r76 1 16 0.0120155
r77 1 48 0.0329425
r78 1 53 0.0329425
r79 1 41 0.06375
r80 1 42 0.13175
r81 1 38 0.14025
r82 1 39 0.19125
r83 1 35 0.05525
r84 1 36 0.14025
r85 1 53 0.10625
r86 1 52 0.08075
r87 1 32 0.02975
r88 1 33 0.16575
.ends

.subckt PM_BUX8%Z 5 6 7 8 13 19 25 33 36 38 40 42 47 48 49 50
c85 50 0 0.26394f
c86 49 0 0.242177f
c87 48 0 0.242177f
c88 47 0 0.257124f
c89 42 0 0.0143205f
c90 40 0 0.00344131f
c91 38 0 0.00344131f
c92 36 0 0.00941264f
c93 33 0 0.219793f
c94 25 0 0.0351149f
c95 19 0 0.0351149f
c96 13 0 0.0351149f
c97 8 0 0.183709f
c98 7 0 0.179513f
c99 6 0 0.17926f
c100 5 0 0.183334f
r101 41 50 0.231389
r102 41 42 0.02125
r103 39 49 0.231389
r104 39 40 0.0425
r105 37 48 0.231389
r106 37 38 0.0425
r107 35 47 0.231389
r108 35 36 0.0359928
r109 31 42 0.02125
r110 31 33 0.188889
r111 27 42 0.02125
r112 26 40 0.0425
r113 25 42 0.02125
r114 25 26 0.273889
r115 21 40 0.0425
r116 20 38 0.0425
r117 19 40 0.0425
r118 19 20 0.273889
r119 15 38 0.0425
r120 14 36 0.00935391
r121 13 38 0.0425
r122 13 14 0.273889
r123 9 36 0.0359928
r124 8 27 0.292778
r125 7 21 0.354167
r126 6 15 0.354167
r127 5 9 0.354167
.ends

.subckt PM_BUX8%IN 3 7 10 17
c23 17 0 0.20407f
c24 10 0 0.0419255f
c25 7 0 0.773726f
c26 3 0 0.606451f
r27 13 17 15.2778
r28 10 13 7
r29 5 17 6.3741
r30 5 7 218.75
r31 1 17 6.3741
r32 1 3 164.583
.ends

